US07678815B2
3-[1,2,3]Triazol-1-yl-phenylamine
1-(3-Nitro-phenyl)-1H-[1,2,3]triazole (9.66 g, 51 mmol) were dissolved in 300 ml methanol and 70 ml THF. Palladium on charcoal (10%, 500 mg) were added and the reaction mixture was stirred with a hydrogen balloon for 36 h. Palladium on charcoal was filtered off and washed with methanol. The solvent was evaporated off to yield the title compound (8.3 g, 100%) as an off-white solid, mp 71-73° C.

reactant | 1-(3-Nitro-phenyl)-1H-[1,2,3]triazole | 51 mmol, 9.66 g | [N+](=O)([O-])C=1C=C(C=CC1)N1N=NC=C1 | C8H6N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
catalyst | Palladium on charcoal | 500 mg | [Pd] | Pd
product | 3-[1,2,3]Triazol-1-yl-phenylamine | 8.3 g, 100% | N1(N=NC=C1)C=1C=C(C=CC1)N | C8H8N4
